US07576108B2
a: (E)-3-Cyclohexyl-acrylic acid ethyl ester
Add triethylphospinoacetate (185 g, 821 mmol) to a suspension of hexane-washed sodium hydride (34.5 g, 60%, 862 mmol) in THF (1 L) at 0° C. Stir the resulting mixture for 1 h, and then cool it to −78° C. Then add a solution of cyclohexylmethanal (92.2 g, 821 mmol) in THF (500 mL) dropwise over 90 min, maintaining an internal temperature of less than −68° C. Allow the reaction mixture to warm to r.t. over 18 h. Then add a solution of saturated aqueous ammonium chloride solution (1 L) to the reaction mixture carefully. Extract the resulting mixture with ether (3×1 L). Combine the extracts and wash them with water (2×1 L), followed by saturated aqueous sodium chloride solution (1 L). Then dry the extracts over magnesium sulfate, and concentrate the solution under vacuum to afford the title compound as a yellow oil (154.8 g). GC-MS (m/e): 182 (M+).

reactant | triethylphospinoacetate | 821 mmol, 185 g | C(C)P(CC)(CC)CC(=O)[O-]
reactant | sodium hydride | 862 mmol, 34.5 g | [H-].[Na+]
reactant | cyclohexylmethanal | 821 mmol, 92.2 g | C1(CCCCC1)C=O | C7H12O
reactant | ammonium chloride | 1 L | [Cl-].[NH4+]
reactant | THF | 1 L | C1CCOC1 | C4H8O
reactant | THF | 500 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | (E)-3-Cyclohexyl-acrylic acid ethyl ester | 154.8 g | C(C)OC(\C=C\C1CCCCC1)=O | C11H18O2
